US06660230B2
Allylbis(phenpropyl)silane:
To a 500 mL Schlenk flask containing magnesium turnings (2.71 g, 111.5 mmol) in diethyl ether (250 mL) was added dropwise a solution of 1-bromo-3-phenylpropane (20.0 g, 100.5 mmol) over 4 hours. The resulting pale yellow solution was stirred for 10 hours at room temperature then cooled to 0° C. and treated with allyldichlorosilane (7.085 g, 50 mmol) via syringe. The resulting white slurry was stirred for 4 hours at room temperature then heated to reflux for 20 minutes. After filtration and aqueous work-up, the solvent was removed in vacuo to give a colorless liquid. Yield: 86%. FTIR (NaCl, cm−1): 3083, 3066, 3021, 2927, 2842, 2069, 1598, 1569, 1488, 1456, 1142, 1067, 1025, 987, 920, 891, 834, 745, 701. 1H NMR (CDCl3): 7.28, 7.17, 5.74, 4.89, 4.54, 3.74, 2.62, 1.67, 0.64.

reactant | magnesium | 111.5 mmol, 2.71 g | [Mg] | Mg
reactant | 1-bromo-3-phenylpropane | 100.5 mmol, 20.0 g | BrCCCC1=CC=CC=C1 | C9H11Br
reactant | allyldichlorosilane | 50 mmol, 7.085 g | C(C=C)[SiH](Cl)Cl | C3H6Cl2Si
reactant | NaCl | [Na+].[Cl-]
solvent | diethyl ether | 250 mL | C(C)OCC | C4H10O
product | Allylbis(phenpropyl)silane | Yield: 86% | C(C=C)[SiH](CCCC1=CC=CC=C1)CCCC1=CC=CC=C1 | C21H28Si
